US05142052
N-methyl-N-phenethyl-N-[(4-hydroxyphenyl)methyl]amine;
1-[(4-hydroxyphenyl)methyl]piperazine alone or mixed with 1,4-di-[(4-hydroxyphenyl)methyl]piperazine;

reactant | 1-[(4-hydroxyphenyl)methyl]piperazine | OC1=CC=C(C=C1)CN1CCNCC1 | C11H16N2O
reactant | 1,4-di-[(4-hydroxyphenyl)methyl]piperazine | OC1=CC=C(C=C1)CN1CCN(CC1)CC1=CC=C(C=C1)O | C18H22N2O2
product | N-methyl-N-phenethyl-N-[(4-hydroxyphenyl)methyl]amine | CN(CC1=CC=C(C=C1)O)CCC1=CC=CC=C1 | C16H19NO
